US07888362B2
By a similar method as in Example 1, 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-3-methylbutoxy]-3,4-dihydro-1H-quinolin-2-one was prepared from methanesulfonic acid 2-methyl-4-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)butyl ester, and after it was made into a methanol solution, 0.5N hydrochloric acid methanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from isopropyl alcohol and thereby 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-3-methylbutoxy]-3,4-dihydro-1H-quinolin-2-one hydrochloride was obtained in the form of a slightly yellow powder.

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-3-methylbutoxy]-3,4-dihydro-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CC(CCOC2=CC=C1CCC(NC1=C2)=O)C | C26H31N3O2S
reactant | methanesulfonic acid 2-methyl-4-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yloxy)butyl ester | CC(COS(=O)(=O)C)CCOC1=CC=C2CCC(NC2=C1)=O | C15H21NO5S
reactant | hydrochloric acid methanol | 0.5N | CO.Cl
solvent | methanol | CO | CH4O
product | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-3-methylbutoxy]-3,4-dihydro-1H-quinolin-2-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CC(CCOC2=CC=C1CCC(NC1=C2)=O)C | InChI=1S/C26H31N3O2S.ClH/c1-19(9-15-31-21-7-5-20-6-8-26(30)27-23(20)17-21)18-28-11-13-29(14-12-28)24-3-2-4-25-22(24)10-16-32-25;/h2-5,7,10,16-17,19H,6,8-9,11-15,18H2,1H3,(H,27,30);1H
